US07223788B2
Spiro[1,3-benzodioxol-2,1′-cyclopentane]
Catechol (11 g) and cyclopentanone (9 ml) were heated under reflux in toluene (150 ml) with p-toluenesulfonic acid (0.18 g) with a water trap. After 18 hours, the mixture was concentrated and purified by chromatography (silica gel, heptane/ethyl acetate 4:1). This resulted in the product with the molecular weight of 176.22 (C11H12O2); MS(ESI): 177 (M+H+).

reactant | Catechol | 11 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | cyclopentanone | 9 ml | C1(CCCC1)=O | C5H8O
reactant | p-toluenesulfonic acid | 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Spiro[1,3-benzodioxol-2,1′-cyclopentane] | C12(CCCC1)OC1=C(O2)C=CC=C1 | C11H12O2
